US03998821
A solution of t-butyl 3-(2-ethylcarbonyl-2-triphenylphosphoranylideneethyl)-7β-(2-thienylacetamido)ceph-3-em-4-carboxylate (500 mg.) in tetrahydrofuran (10 ml.) was treated with aluminum amalgam (500 mg., prepared as described in L.G. Fiester and M. Fieser, Reagents for Organic Synthesis, P. 20) and water (0.2 ml.), and the mixture stirred at 23°After 2 and 3 hours further amounts (0.2 ml., and 0.1 ml. respectively) of water were added. After a total of 4 hours the mixture was filtered and the filtrate evaporated in vacuo. The residue was dissolved in benzene and filtered through a short column of Merck Kieselgel (0.05 - 0.2mm, 10 g.) to give, on evaporation, triphenylphosphine (130 mg., 73%). Further elution with benzene ethyl acetate (1:1) gave the title compound (230 mg., 72%) as a foam, λmax. (EtOH) 270 nm (ε, 5,020), νmax. (CHBr3) 3450 and 3360 (NH), 1786 (β-lactam), 1730 (CO2R) and 1686 and 1518 cm-1 (CONH), τ(CDCl3) 3.51 (NH, doublet, J 9 Hz), 4.26 (C(7) -H, double doublet, J 9 and 4.5 Hz), 5.09 (C(6) -H, doublet, J 4.5 Hz), 5.88 and 8.74 (OCH2CH3, quartet and triplet), 6.17 (CH2CONH), 6.50 and 6.8 (C(2) -CH2, AB-quartet, J 18 Hz), 7.3-7.7 (--CH2CH2 --0--, 4 proton multiplet) and 8.47 (C[CH3]3).

reactant | t-butyl 3-(2-ethylcarbonyl-2-triphenylphosphoranylideneethyl)-7β-(2-thienylacetamido)ceph-3-em-4-carboxylate | 500 mg | C(C)C(=O)C(CC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C([C@H]2NC(CC=2SC=CC2)=O)=O)=P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C40H41N2O5PS2
reactant | water | 0.2 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | triphenylphosphine | 130 mg, 73% | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
